US09302986B2
To a vigorously stirring suspension of fluoromethyl(triphenyl)-phosphonium tetrafluoroborate (18.9 g, 49.4 mmol) in dry THF (190 mL) at −20° C. under N2 was added sodium bis(trimethylsilyl)amide (1.0 M in THF; 49.4 mL, 49.4 mmol) slowly over 10 min. The resulting deep orange solution was left to stir at this temperature for 15 min. A solution of tert-butyl 3-(tert-butyldimethylsilyloxy)-2-oxopropylcarbamate (10.0 g, 33.0 mmol) in THF (10 mL) was then added slowly over 10 min. After complete addition, stirring was continued for a further 1 h during which time the reaction was allowed to warm slowly to room temperature. The reaction was quenched by addition of water (5 mL) and the reaction mixture was concentrated in vacuo. The residue was partitioned between water (100 mL) and diethyl ether (100 mL) and the aqueous layer was extracted with further diethyl ether (2×100 ml). The combined organics were dried over Na2SO4 and concentrated under reduced pressure. The crude residue was purified over silica gel eluting with n-hexane followed by 6% ethylacetate in n-hexane to give tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-3-fluoroallylcarbamate as a mixture of E/Z double-bond isomers (E/Z=1:1; 9.9 g; 94%). The isomers were not separated at this stage.

reactant | fluoromethyl(triphenyl)-phosphonium tetrafluoroborate | 49.4 mmol, 18.9 g | F[B-](F)(F)F.FC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | 49.4 mmol, 1.0 M, 49.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 3-(tert-butyldimethylsilyloxy)-2-oxopropylcarbamate | 33.0 mmol, 10.0 g | [Si](C)(C)(C(C)(C)C)OCC(CNC(OC(C)(C)C)=O)=O | C14H29NO4Si
solvent | THF | 190 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-3-fluoroallylcarbamate | [Si](C)(C)(C(C)(C)C)OCC(CNC(OC(C)(C)C)=O)=CF | C15H30FNO3Si
